US05395845
2-bromo α-ethynyl 4-thiazolemethanol
Using the procedure of Example 1, 2-bromo-4-thiazole carboxaldehyde and ethynyl magnesium bromide were reacted to obtain the desired product with a Rf=0.17 [hexane-ethyl acetate (7-3)].

reactant | 2-bromo-4-thiazole carboxaldehyde | BrC=1SC=C(N1)C=O | C4H2BrNOS
reactant | ethynyl magnesium bromide | C(#C)[Mg]Br
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-bromo α-ethynyl 4-thiazolemethanol | BrC=1SC=C(N1)C(O)C#C | C6H4BrNOS
